* Z:\home\grzegorz\git\ETH1CVOLT\HARDWARE\SIM\LTSPICE\Draft1.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 NC_01 0 VDD VREF N005 N004 0 N001 NC_02 AD8475
V1 VDD 0 5
V2 N002 0 SINE(0 20 100 0 0 0 100)
V3 VREF 0 2.5
R1 N006 N005 220
C1 N006 0 22p
R2 N003 N002 49k9
R3 N003 0 49k9
X§U2 N003 N001 VCC VSS N001 ADA4522-1
V4 VCC 0 21
V5 VSS 0 -21
.tran 0.5
.lib AD8475.lib
.lib ADA4522-1.lib
.backanno
.end
